Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Morphine / Latex
 
Attending: ___.
 
Chief Complaint:
Whole body pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ year female with past medical history significant 
for SS disease, history of PE on coumadin, asthma, hepatitic C, 
personality disorder and chronic suicidality, with multiple 
admissions in local area hospitals and recent admission on ___ 
for chest pain who is admitted with all over pain.  

Per report, patient had just left ___ unit 
today as she was feeling unwell to stay with her boyfriend. She 
subsequently began to develop her chronic pain so presented to 
___ urgent care. She was transferred from there 
to the ED for evaluation. It is unchanged from her past pain 
crises. Her chest pain is unchanged with exertion or position 
and is relieved with IV dilaudid.

In the ED, initial VS were: T: 99.7 P: 105 BP: 120/77 R: 18 
O2sat: 97% on RA RA. ECG showed sinus tachycardia at 104 and was 
otherwise unchanged from prior. She received dilaudid 1 mg IV, 2 
mg IV x2, benadryl 50 mg IV x2 and 1L of NS at 250 cc/hr. She 
also received Zofran 4 mg IV x1.  
  
Pain was relatively well controlled and plan was for discharge; 
however, she was found to have a subtherapeutic INR. She states 
she will not take lovenox as an outpatient, so she was admitted 
for pain and for heparin gtt with bridge to coumadin.
 
Past Medical History:
1) Sickle cell (HbSS) disease with frequent hospitalizations 
with pain crises discharge just 2 days prior for pain crisis.  
2) Pulmonary embolus in ___  
3) ? CVA in ___  
4) s/p acute chest syndrome requiring intubation in ___  
5) Asthma  
6) Borderline personality disorder/PTSD with history of suicidal 
ideation, past psychiatric hospitalizations  
7) Transfusion-related Hepatitis C  
8) s/p cholecystectomy  
9) Hx of seizure disorder-details unknown  
10) Hx of numerous port-a-cath placements  
11) Hx of coag-negative staph and MSSA line infections  
12) Hyperprolactinemia  
13) Lymphadenopathy L anterior cervical and R inguinal noted on 
last admission -- thought to be due to viral illness, with 
instructions to f/u with her PCP.
 
Social History:
___
Family History:
Mother ___ sickle trait
Father ___ has sickle cell anemia
Family history also includes HTN, HL, DM type II, blindness
 
Physical Exam:
Vitals: T: 99.4 BP: 110/72 P: 111 R: 18 O2: 94% on RA  

General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rhythm, tachycardic normal S1 + S2, no murmurs, 
rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: dry/xerotic.
Psychiatric: Self-destructive and actively suicidal.  Recently 
started a fire in a bathroom using alcohol pads and paper towels 
in hopes of dying in the fire.  Also reports suicide attempt 
from overdose on percocet.  She says she is planning her next 
attempt but will not disclose the details.
 
Pertinent Results:
___ 07:50PM   GLUCOSE-88 UREA N-3* CREAT-0.4 SODIUM-139 
POTASSIUM-4.4 CHLORIDE-108 TOTAL CO2-24 ANION GAP-11
___ 07:50PM   WBC-8.8 RBC-1.79* HGB-7.6* HCT-22.0* MCV-123* 
MCH-42.5* MCHC-34.7 RDW-20.1*
___ 07:50PM   PLT COUNT-381
___ 07:50PM   ___
___ 04:05PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:05PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG

CXR:
IMPRESSION: Mild cardiomegaly without acute cardiopulmonary 
abnormality. 

 
Brief Hospital Course:
This is a ___ year old patient with SS disease, multiple PEs on 
coumadin and hep C who presents with her typical sickle cell 
pain and with a subtherapeutic INR.  Despite these medical 
conditions, the most significant problem that the patient is 
battling is her mental illness which poses the greatest risk to 
her life.

1. SUICIDAL/Borderline personality discorder/PTSD: Psychiatry 
very involved with this patient's care including disposition 
planning.  The patient has a longstanding affective instability 
and inability to maintain herself safely in
the community.  She needs inpatient long term admission to 
intermediate care.  Dr. ___, ___ area medical director 
has made arrangements for her to go to the ___.  The 
patient threatened to "do something stupid" if she is 
transferred ___ to the ___.  She has a history of serious 
explosive and self-destructive behavior. The patient was 
discharged from the hospital to intermediate care at ___ 
___.  She is under ___.

During this admission, she had a 1:1 sitter given chronic 
suicidality and personality disorder with threats of burning the 
hospital and harming herself. Celexa and Remeron were continued.

A multidisciplinary meeting took place with Social Work, Case 
Management, Psychiatry, and Medicine teams to discuss how to 
manage future presentations to the ED.  Medicine team was asked 
to draft a "Flag" to be placed in the OMR for working the 
patient up in the ED to avoid unnecessary repeated medical 
admissions. This was to include input from Hematology and Pain 
services.  Pain service was not able to give input this 
admission because the patient was discharged prior to their 
evaluation.  Given the nature of the patient's complaints that 
usually involve Chest Pain in the setting of having sickle cell 
disease it will continue to be a challenge to quickly rule out 
an acute chest syndrome.  This should be readdressed if the 
patient is readmitted again to the hospital.
 
2. Whole body pain on Chronic pain: Recently ruled out for flu 
with DFA and viral cutlure. The patient was not febrile, had no 
abnormal vital signs, and no localizing signs of infection or 
other disease process. CXR did not reveal any acute process and 
UA was negative.  The patient may have hyperalgesia from chronic 
opiate use.

Please note that when asked what dose of medications she was 
prescribed, she reported all doses at double the dose that she 
was just recently prescribed from her recent discharge just days 
prior to this admission.  During this hospital admission she was 
ordered for her prior regimen of Morphine SR 30mg PO TID and 
Dilaudid 4mg PO Q4hrs for breakthrough, and Gabapentin. 
Benadryl/hydroxyzine and Sarna prn pruritis. For future 
admissions, pain consult should be considered.

3. Chest pain: There was no evidence for acute coronary syndrome 
or acute chest syndrome.  EKG and cardiac enzymes were negative. 
 There was no evidence of hemolysis and hematocrit remained 
stable.  Heparin (initially unfractionated, then changed to 
Lovenox) and Coumadin were started for chronic pulmonary 
embolism.

4. Chronic pulmonary embolism:  Pt has been known to cheek her 
medications or hide her pills.  Per psychiatry recommendations, 
her coumadin was ordered to be crushed and placed in food and 
she was to be observed while she took the coumadin.  INR was 
trending upward after this intervention.  The INR will be 
followed upon discharge and coumadin dose adjusted for a goal of 
___. Lovenox should be continued until INR>2.0.

5. Tachycardia: Patient had normal vital signs except when she 
became agitated when talking to psychiatry---at these times she 
had sinus tachycardia up to 120 BPM.

6. Sickle cell disease: Continue home dose of hydroxyurea and 
folate. She has a macrocytic anemia that is secondarely to 
reticulocytosis. She has normal folate and B12 levels. Her 
hematocrit was stable and remained at her baseline: 24. She will 
need to continue hydroxyurea and regular outpatient follow up 
with hematology.
  
7. Seizure disorder: Stable. Continue dilantin.  
 
8. Asthma: Stable, continue albuterol/flovent prn
 
Medications on Admission:
1. Mirtazapine 15 mg Tablet Sig: 0.5 Tablet PO HS  
2. Citalopram 20 mg Tablet Sig: 1.5 Tablets PO DAILY  
3. Senna 8.6 mg Tablet Sig: One (1) Tablet PO twice a day.  
4. Hydroxyurea 500 mg Capsule Sig: Two (2) Capsule PO DAILY  
5. Promethazine 25 mg Tablet Sig: One (1) Tablet PO Q6H prn 
nausea  
6. Phenytoin Sodium Extended 100 mg Capsule Sig: Two (2) Capsule 
PO BID  
7. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS  
8. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY  
9. Folic Acid 1 mg Tablet Sig: Three (3) Tablet PO DAILY  
10. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4  

___.  
11. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig:  

Two (2) Puff Inhalation Q6H (every 6 hours) as needed for  
shortness of breath or wheezing.  
12. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY  
13. Diphenhydramine HCl 25 mg Capsule Sig: One (1) Capsule PO  
Q6H (every 6 hours) as needed for itching.  
14. Ibuprofen 400 mg Tablet Sig: Two (2) Tablet PO Q8H as needed 
for pain.  
15. Hydroxyzine HCl 25 mg Tablet Sig: Two (2) Tablet PO Q6H as 
needed for itching.  
16. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID  
17. Ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
 
Rapid Dissolve PO Q8H as needed for nausea.  
18. Morphine 30 mg Tablet Sustained Release Sig: One (1) Tablet  

Sustained Release PO Q8H as needed for pain.  
19. Sodium Chloride 0.65 % Aerosol, Spray Sig: ___ Sprays Nasal  

QID as needed for dryness.  
20. Hydromorphone 4 mg Tablet Sig: One (1) Tablet PO every four  

(4) hours: Hold for respiratory sedation, rr<12. (patient 
reports taking 8 mg Q4H)  
21. Flovent 2 puffs Q4H prn  
 
Discharge Medications:
1. Mirtazapine 15 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime).  

2. Citalopram 20 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
3. Senna 8.6 mg Capsule Sig: One (1) Capsule PO BID (2 times a 
day) as needed for constipation.  
4. Hydroxyurea 500 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
5. Promethazine 25 mg Tablet Sig: One (1) Tablet PO every ___ 
hours as needed for nausea.  
6. Phenytoin Sodium Extended 100 mg Capsule Sig: One (1) Capsule 
PO twice a day.  
7. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Folic Acid 1 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
9. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
10. Enoxaparin 60 mg/0.6 mL Syringe Sig: Fifty (50) mg 
Subcutaneous Q12H (every 12 hours) for 5 days: Or until INR 
therapeutic (___).  
11. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
12. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q4H (every 4 hours) as needed for wheeze.  
13. Hydroxyzine HCl 25 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours) as needed for itching.  
14. Ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q8H (every 8 hours) as needed for nausea.  
15. Morphine 30 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO Q8H (every 8 hours).  
16. Hydromorphone 4 mg Tablet Sig: One (1) Tablet PO Q4H (every 
4 hours) as needed for pain.  
17. Diphenhydramine HCl 25 mg Capsule Sig: Two (2) Capsule PO 
Q6H (every 6 hours) as needed for itching.  
18. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
19. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
20. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain/fever.  
21. Ibuprofen 800 mg Tablet Sig: One (1) Tablet PO every eight 
(8) hours.  
22. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
23. Camphor-Menthol 0.5-0.5 % Lotion Sig: One (1) Appl Topical 
QID (4 times a day) as needed for itching.  
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
1. Suicidality
2. Borderline personality disorder with post-traumatic stress 
disorder
3. Chronic pulmonary embolus with sub-therapeutic INR.

Secondary diagnosis:
1. Sickle cell disease
 
Discharge Condition:
Stable, tolerating PO, ambulatory, chronically suicidal
 
Discharge Instructions:
You were seen a the ___ for whole body pain and self-reported 
fever. You had EKG done that showed no changes and cardiac 
enzymes that were negative. You had no abnormalities on 
telemetry. You also had a chest xray that did not show signs of 
fluid overload or infection. Your Coumadin level (INR) was low 
upon admission, which may mean that you were not taken it 
correctly, the dose you have is low or changes in your diet as 
well as interactions with new medications. For this reason you 
required Lovenox for a few days.

You were ruled out for the flu on ___ with a negative nasal 
swab and you were afebrile during that admission. We called 
___, who did not report any measured temperature and during 
your stay here you were afebrile without any signs of infection. 
Your WBC were within normal range.

We also checked your blood level, which was at its baseline. 
Your folic acid and vitamin B12 levels are within normal limits 
and you need to continue those for your hemoglobin disorder. You 
did not have any signs of active sickle cell crisis.

You told us you were with the double of medications that we 
discharged you last week. We corroborated your list with 
___ and put you in your home regimen (see attached), which 
worked for your pain. The most likely explanation is withdrawal 
for the medications you were getting. You will need to slowly 
___ them down.

Given your chronic suicidality and chronic opioid use you were 
evaluated by our psychiatry group who recommended a structured 
environment for your protection.

Given that you have history of not taking your medications and 
hide them in multiple places we crushed all your medications, 
including your Coumadin.
 
Followup Instructions:
___